US05973189
5 g (21.8 mmol) of N-carboxymethylene-4-chloro-anthranilic acid are dissolved in 40 ml of n-propanol, 108 mg (1.05 mmol) of concentrated H2SO4 are added and the mixture is heated at 70° C. for 4.5 hours. It is then cooled to room temperature and the product which has precipitated out is filtered off with suction and washed with n-propanol. After drying, 3.6 g (13.3 mmol; 61%) of N-carbopropoxymethylene-4-chloro-anthranilic acid are obtained as a pale yellow solid.

reactant | N-carboxymethylene-4-chloro-anthranilic acid | 21.8 mmol, 5 g | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
reactant | H2SO4 | 1.05 mmol, 108 mg | OS(=O)(=O)O | H2O4S
reactant | n-propanol | 40 ml | C(CC)O | C3H8O
product | N-carbopropoxymethylene-4-chloro-anthranilic acid | 13.3 mmol, 3.6 g, 61% | C(=O)(OCCC)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C12H12ClNO4
